US07429605B2
iii) 3-Chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine
177 mg (0.11 ml, 1.49 mmol) thionyl chloride were added drop by drop at 0° C. to a solution of 0.1 ml N,N-dimethylformamide (DMF) and 196 mg (0.74 mmol) [5-(4-Trifluoromethyl-phenyl)-pyridin-3-yl]-methanol in 6 ml dichloromethane and stirred for 1.5 h at 0° C. The mixture was poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase is extracted with dichloromethane. The combined organic phases were washed with water, dried (sodium sulphate), evaporated and the obtained material (174 mg, 81%) used without further purification.

reactant | thionyl chloride | 1.49 mmol, 0.11 ml, 177 mg | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | [5-(4-Trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | 0.74 mmol, 196 mg | FC(C1=CC=C(C=C1)C=1C=C(C=NC1)CO)(F)F | C13H10F3NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3-Chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
